US05304560
A mixture of 1-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]-7-methoxy-2,4(1H,3H)-quinazolinedione (300 mg) and 47% hydrobromic acid (3.8 ml) in acetic acid (6 ml) was refluxed for 24 hours. After dilution with water, precipitates were collected. A crude crystalline material was recrystallized from ethanol to give 1-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]-7-hydroxy-2,4(1H,3H)-quinazolinedione hydrobromide (140 mg).

reactant | 1-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]-7-methoxy-2,4(1H,3H)-quinazolinedione | 300 mg | C1(=CC=CC=C1)C=1CCN(CC1)CCCCN1C(NC(C2=CC=C(C=C12)OC)=O)=O | C24H27N3O3
reactant | hydrobromic acid | 3.8 ml | Br | BrH
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
product | 1-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]-7-hydroxy-2,4(1H,3H)-quinazolinedione hydrobromide | 140 mg | Br.C1(=CC=CC=C1)C=1CCN(CC1)CCCCN1C(NC(C2=CC=C(C=C12)O)=O)=O | InChI=1S/C23H25N3O3.BrH/c27-19-8-9-20-21(16-19)26(23(29)24-22(20)28)13-5-4-12-25-14-10-18(11-15-25)17-6-2-1-3-7-17;/h1-3,6-10,16,27H,4-5,11-15H2,(H,24,28,29);1H
